US08791123B2
To a solution of (R)-tert-butyl 2-(3-fluoro-5-hydroxyphenyl)pyrrolidine-1-carboxylate (10.3 g, 36.5 mmol) in DCM (20 mL) was added 4N HCl in dioxane (36.5 mL, 146 mmol) and the mixture was stirred at ambient temperature for 15 hours. The resulting precipitate was filtered and washed with DCM to afford (R)-3-fluoro-5-(pyrrolidin-2-yl)phenol hydrochloride (5.81 g, 73.3% yield).

reactant | (R)-tert-butyl 2-(3-fluoro-5-hydroxyphenyl)pyrrolidine-1-carboxylate | 36.5 mmol, 10.3 g | FC=1C=C(C=C(C1)O)[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C15H20FNO3
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 146 mmol, 36.5 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-fluoro-5-(pyrrolidin-2-yl)phenol hydrochloride | 5.81 g, 73.3% yield | Cl.FC=1C=C(C=C(C1)[C@@H]1NCCC1)O | InChI=1S/C10H12FNO.ClH/c11-8-4-7(5-9(13)6-8)10-2-1-3-12-10;/h4-6,10,12-13H,1-3H2;1H/t10-;/m1./s1
